US07087597B1
2-[({2-(2,3-dihydro-1H-indol-1-yl)-4-[(4-fluorobenzyl)oxy]-5-pyrimidinyl}carbonyl)amino]acetic acid
t-Butyl 2-[({2-(2,3-dihydro-1H-indol-1-yl)-4-[(4-fluorobenzyl)oxy]-5-pyrimidinyl}carbonyl)amino]acetate (210 mg, 0.4 mmol) was dissolved in trifluoroacetic acid-dichloromethane (4:1, 2 mL) and the mixture was stirred at room temperature for 15 min. The reaction mixture was concentrated under reduced pressure and the precipitated crystals were recrystallized from ethyl acetate to give the title compound (140 mg, 70%).

reactant | t-Butyl 2-[({2-(2,3-dihydro-1H-indol-1-yl)-4-[(4-fluorobenzyl)oxy]-5-pyrimidinyl}carbonyl)amino]acetate | 0.4 mmol, 210 mg | N1(CCC2=CC=CC=C12)C1=NC=C(C(=N1)OCC1=CC=C(C=C1)F)C(=O)NCC(=O)OC(C)(C)C | C26H27FN4O4
solvent | trifluoroacetic acid dichloromethane | 2 mL | FC(C(=O)O)(F)F.ClCCl
product | 2-[({2-(2,3-dihydro-1H-indol-1-yl)-4-[(4-fluorobenzyl)oxy]-5-pyrimidinyl}carbonyl)amino]acetic acid | 140 mg, 70% | N1(CCC2=CC=CC=C12)C1=NC=C(C(=N1)OCC1=CC=C(C=C1)F)C(=O)NCC(=O)O | C22H19FN4O4
